US04278782
The procedure of Example 1 is repeated with naphthalic acid in place of benzoic acid. A solution of a terpolymer of styrene allyl alcohol naphthalate in butyl acetate containing 75 weight percent of the terpolymer is obtained.

reactant | naphthalic acid | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | styrene allyl alcohol naphthalate | C1(=CC=CC2=CC=CC=C12)C(=O)OCC=C.C=CC1=CC=CC=C1 | InChI=1S/C14H12O2.C8H8/c1-2-10-16-14(15)13-9-5-7-11-6-3-4-8-12(11)13;1-2-8-6-4-3-5-7-8/h2-9H,1,10H2;2-7H,1H2
